US08304446B2
3,6-Difluoro-2-methoxy-benzonitrile
Methanol (600 mL) was treated portionwise with sodium (Alfa, 16.1 g, 0.702 gatoms, 1.05 equiv.). The sodium methoxide solution was cooled to room temperature and added dropwise to a solution of 2,3,6-trifluorobenzonitrile (Matrix, 105 g, 0.699 mol) in methanol (600 ml) at room temperature. After addition was complete the mixture was stirred for 1 hour at room temperature before removing the methanol under reduced pressure. The residue was partitioned between diethyl ether (500 ml) and water (500 mL). The organic layer was removed, dried over MgSO4, filtered and evaporated to give the crude product. This was purified by distillation using a 6″ vigreux column @ 20 mmHg, oil bath 160° C., head temp 120° C. to give the title compound as a white solid (108 g, 91%)

reactant | sodium | 16.1 g, 1.05 equiv. | [Na] | Na
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2,3,6-trifluorobenzonitrile | 0.699 mol, 105 g | FC1=C(C#N)C(=CC=C1F)F | C7H2F3N
solvent | methanol | 600 ml | CO | CH4O
solvent | Methanol | 600 mL | CO | CH4O
product | 3,6-Difluoro-2-methoxy-benzonitrile | 108 g, 91% | FC=1C(=C(C#N)C(=CC1)F)OC | C8H5F2NO
